US08389527B2
To a solution of 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (100 mg, 0.184 mmol) in 1,2-dichloroethane (2 mL) was added DIEA (0.128 mL, 0.734 mmol) and 1-bromo-2-(2-bromoethoxy)ethane (42.6 mg, 0.184 mmol), and the reaction solution was stirred at 60° C. for 9 hrs. The reaction mixture was treated with TFA (0.849 mL, 11.02 mmol) at 65° C. for 1 hr, concentrated, diluted with methanol, and purified by HPLC (Phenomenex Axia Luna 5 micron 30×100 mm) 30% B (Solvent B=90% MeOH-10% H2O-0.1% TFA) to 100% B in A (Solvent A=10% MeOH-90% H2O-0.1% TFA) to obtain 8-(cyclopropylamino)-N-(2-fluoropyridin-4-yl)-6-((trans)-4-morpholinocyclohexylamino)imidazo[1,2-b]pyridazine-3-carboxamide (36.3 mg, 0.073 mmol, 40.0% yield). LC/MS (BEH C18 2.1×50 mm 1.7u, Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2.2 min with 1 min hold time, Flow rate=2 mL/min, detection at 254 nm, Solvent A: 100% water/0.05% TFA; Solvent B: 100% ACN/0.05% TFA). Rt=0.67 minutes. [M+H]=495.3. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.40 (1H, s), 9.57-9.89 (1H, m), 8.26 (1H, d, J=5.77 Hz), 7.99 (1H, d, J=1.76 Hz), 7.67 (1H, s), 7.60 (1H, s), 7.44 (1H, d, J=4.77 Hz), 6.88-7.14 (1H, m), 5.98 (1H, s), 4.04 (2H, d, J=11.80 Hz), 3.58-3.83 (3H, m), 3.40 (2H, d, J=12.05 Hz), 2.98-3.23 (2H, m), 2.28 (2H, d, J=11.80 Hz), 2.17 (2H, d, J=11.29 Hz), 1.55 (2H, br. s.), 1.35 (2H, br. s.), 0.78 (2H, d, J=6.53 Hz), 0.63 (2H, br. s.)

reactant | 6-((trans)-4-aminocyclohexylamino)-8-(cyclopropyl(4-methoxybenzyl)amino)-N-(2-fluoropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 0.184 mmol, 100 mg | N[C@@H]1CC[C@H](CC1)NC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)F)N(CC2=CC=C(C=C2)OC)C2CC2 | C29H33FN8O2
reactant | DIEA | 0.734 mmol, 0.128 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-bromo-2-(2-bromoethoxy)ethane | 0.184 mmol, 42.6 mg | BrCCOCCBr | C4H8Br2O
reactant | TFA | 11.02 mmol, 0.849 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
product | 8-(cyclopropylamino)-N-(2-fluoropyridin-4-yl)-6-((trans)-4-morpholinocyclohexylamino)imidazo[1,2-b]pyridazine-3-carboxamide | 0.073 mmol, 36.3 mg, 40.0% yield | C1(CC1)NC=1C=2N(N=C(C1)N[C@@H]1CC[C@H](CC1)N1CCOCC1)C(=CN2)C(=O)NC2=CC(=NC=C2)F | C25H31FN8O2
